US06130348
To a suspension of 2.15 g aluminium isopropoxide in 35 ml of isopropanol were added 2.88 g of methyl [3-chloro-2-oxo-(R)-1-(phenylthiomethyl)-propyl]-carbamate and the suspension was stirred at 70° C./ 400 mbar for 4 hours. The mixture was cooled to 0° C., the pH was adjusted to 1 by adding hydrochloric acid and the isopropanol was evaporated. The suspension was filtered and the residue was recrystallized from toluene to give 2.18 g (75%) isomerically pure methyl (1R, 2S)-[3-chloro-2-hydroxy-1-(phenylthiomethyl)-propyl]-carbamate, m.p. 113-114° C. IR (KBr): 3389 m and 3327 m (NH, OH), 1695 s (C=O), 1537 s (amide II). MS (EI): 289/35 (M+).

reactant | aluminium isopropoxide | 2.15 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | methyl [3-chloro-2-oxo-(R)-1-(phenylthiomethyl)-propyl]-carbamate | 2.88 g | ClCC([C@H](CSC1=CC=CC=C1)NC(OC)=O)=O | C12H14ClNO3S
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 35 ml | C(C)(C)O | C3H8O
product | methyl (1R, 2S)-[3-chloro-2-hydroxy-1-(phenylthiomethyl)-propyl]-carbamate | ClC[C@H]([C@H](CSC1=CC=CC=C1)NC(OC)=O)O | C12H16ClNO3S
